US05932567
(b) 1-(4-Cyanophenyl)ethylamine
20.7 g (0.07 mol) of benzophenone N-(p-cyanobenzyl)imine were added dropwise to a solution of lithium diisopropylamide, prepared from 8.15 g (0.08 mol) of diisopropylamine and 48.3 ml (0.08 mol) of a 15% strength solution of butyllithium in hexane, in 100 ml of abs. tetrahydrofuran at -70° C., and the mixture was left to stir for 15 minutes. Then 9.94 g (0.07 mol) of methyl iodide were added dropwise, and the temperature of the reaction mixture was allowed to rise to room temperature. After addition of 100 ml of water and several extractions with ether, the ether phase was washed with 5% strength citric acid solution, 5% strength NaHCO3 solution and water and was dried over Na2SO4, and the ether was distilled off. The residue was dissolved in 150 ml of tetrahydrofuran, 100 ml of 1 N HCl were added, and the mixture was stirred at room temperature overnight. The tetrahydrofuran was distilled out of the reaction mixture under reduced pressure, the remaining acid phase was extracted several times with ether to remove the benzophenone, and then the acid phase was made alkaline with aqueous K2CO3 solution while cooling in ice, and the oily base was extracted with methylene chloride. The extract was dried over K2CO3. 9.7 g (95%) of a yellowish oil remained after stripping-off the methylene chloride and were used without further purification in the next reaction.

reactant | benzophenone N-(p-cyanobenzyl)imine | 0.07 mol, 20.7 g | C(#N)C1=CC=C(CN=C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C21H16N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.08 mol, 8.15 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | methyl iodide | 0.07 mol, 9.94 g | CI | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-Cyanophenyl)ethylamine | C(#N)C1=CC=C(C=C1)C(C)N | C9H10N2
